US08236871B2
Reaction of 72 g glycerol-1,3-dimethacrylate with 17 g phosphorous pentoxide was performed under stirring, cooling with an ice bath and nitrogen atmosphere at room temperature for 48 hours to yield glycerol-1,3-dimethacrylate phosphate as a pale yellow liquid. The product was characterized by 1H- and 31P-NMR spectroscopy.

reactant | glycerol-1,3-dimethacrylate | 72 g | C(C(=C)C)(=O)OCC(O)COC(C(=C)C)=O | C11H16O5
reactant | phosphorous pentoxide | 17 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | glycerol-1,3-dimethacrylate phosphate | C(C(=C)C)(=O)OCC(O)COC(C(=C)C)=O.P(=O)([O-])([O-])[O-] | InChI=1S/C11H16O5.H3O4P/c1-7(2)10(13)15-5-9(12)6-16-11(14)8(3)4;1-5(2,3)4/h9,12H,1,3,5-6H2,2,4H3;(H3,1,2,3,4)/p-3
